US04870074
Preparation of 2-methylamino-5-dimethylsulfamoylbenzoic acid
A mixture of 5-dimethylsulfamoyl-2-fluorobenzoic acid (10 g) and 40% aqueous methylamine solution (85 ml) is refluxed for 24 hours and then evaporated under reduced pressure. The residue is adjusted to the pH of about 4 with acetic acid. The precipitate is collected, washed with water, and dried to give the title compound (6.0 g).

reactant | 5-dimethylsulfamoyl-2-fluorobenzoic acid | 10 g | CN(S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F)C | C9H10FNO4S
reactant | methylamine | 85 ml | CN | CH5N
product | 2-methylamino-5-dimethylsulfamoylbenzoic acid | 6.0 g | CNC1=C(C(=O)O)C=C(C=C1)S(N(C)C)(=O)=O | C10H14N2O4S
